US20010046991A1
0.14 ml (2.0 mmol) of 2-bromoethanol and 0.17 ml (2.4 mmol) of acetyl chloride were dissolved in 2 ml of dichloromethane. 0.28 ml (2.0 mmol) of triethylamine was added, and the reaction mixture was stirred at room temperature. After 1 h 50 ml of dichloromethane was added to the reaction mixture, which was then washed with a sodium bicarbonate (sat.) solution, a 10% citric acid solution and water. The organic phase was dried over sodium sulfate and evaporated to obtain 0.241 g (72%) of 2-bromoethylacetate. Following the procedure outlined in Step 1 of Example 1, but substituting 2-bromoethylacetate for methyl iodide, afforded 2-[4-(4-nitrophenyl)piperazin-1-yl]ethylacetate (64%), which was reduced according to the procedure of Step 2 in Example 1 to give the corresponding amine 2-[4-(4-aminophenyl)piperazin-1-yl]ethylacetate in quantitative yield. 2-[4-(4-aminophenyl)piperazin-1-yl]ethylacetate was reacted with 9-chloro-1,2,3,4-tetrahydroacridine (according to the procedure of Step 4 in Example 1) to obtain 2-{4-[4-amino-(1,2,3,4-tetrahydroacridin-9-yl)phenyl]piperazin-1-yl}ethyl acetate with 47% yield. Treating the ester with 4 equivalents of lithium hydroxide in a dioxane/water solution overnight, afforded the title compound with 60% yield (overall yield 20%).

reactant | 2-[4-(4-aminophenyl)piperazin-1-yl]ethylacetate | NC1=CC=C(C=C1)N1CCN(CC1)CCOC(C)=O | C14H21N3O2
reactant | 9-chloro-1,2,3,4-tetrahydroacridine | ClC=1C2=CC=CC=C2N=C2CCCCC12 | C13H12ClN
product | 2-{4-[4-amino-(1,2,3,4-tetrahydroacridin-9-yl)phenyl]piperazin-1-yl}ethyl acetate | 47% yield | C(C)(=O)OCCN1CCN(CC1)C1=C(C=C(C=C1)N)C=1C2=CC=CC=C2N=C2CCCCC12 | C27H32N4O2
